* Schematics Netlist *



V_EC         $N_0001 0 12V
R_RC         VC $N_0001  2.2k  
R_RE         0 VE  1k  
Q_Q1         VC VB VE Q2N2222
R_RB1         VB $N_0001  47k  
R_RB2         0 VB  20k  
