* Schematics Netlist *



V_EB         $N_0001 0 1.6V
R_RB         $N_0001 $N_0002  100k  
V_EC         $N_0003 0 0V
R_RC         VC $N_0003  1k  
Q_Q1         VC $N_0002 0 Q2N2222
