* Schematics Netlist *



R_R1         0 vL  5k  
D_D1         v1 vL D1N4002 
V_V1         v1 0  
+SIN 0 18.9 50 0 0 0
C_C1         0 vL  22u  
C_C2         0 vL  22u  
C_C3         0 vL  22u  
